US08735048B2
30 g of tricyclohexylbenzene was dissolved in 50 ml of methylene chloride, and the solution was stirred under cooling at 3° C. Thereto, 15.2 g of chlorosulfonic acid was slowly added dropwise and after the dropwise addition, the reaction solution was stirred at room temperature for 5 hours. Subsequently, 10 g of ice was charged, and 40 g of an aqueous 50% sodium hydroxide solution was charged. Furthermore, 20 g of ethanol was added, and the mixture was stirred at 50° C. for 1 hour. Insoluble matters were removed by filtration, and the residue was distilled off under reduced pressure at 40° C. The precipitated crystals were collected by filtration and then washed with hexane to obtain 30 g of sodium 1,3,5-tricyclohexylbenzenesulfonate.

reactant | tricyclohexylbenzene | 30 g | C1(CCCCC1)C=1C(=C(C=CC1)C1CCCCC1)C1CCCCC1 | C24H36
reactant | chlorosulfonic acid | 15.2 g | ClS(=O)(=O)O | ClHO3S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethanol | 20 g | C(C)O | C2H6O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | sodium 1,3,5-tricyclohexylbenzenesulfonate | 30 g | C1(CCCCC1)C1(CC(=CC(=C1)C1CCCCC1)C1CCCCC1)S(=O)(=O)[O-].[Na+] | InChI=1S/C24H38O3S.Na/c25-28(26,27)24(23-14-8-3-9-15-23)17-21(19-10-4-1-5-11-19)16-22(18-24)20-12-6-2-7-13-20;/h16-17,19-20,23H,1-15,18H2,(H,25,26,27);/q;+1/p-1
